US08119624B2
5-(tert-Butyl-dimethyl-silanyloxymethyl)-pyridin-2-ylamine
A mixture of (6-aminopyridin-3-yl)methanol (1.76 g, 14.2 mmol), TBDMSCl (2.18 g, 14.5 mmol), and imidazole (2.90 g, 42.6 mmol) in 20 mL DMF was stirred at room temperature for 2 hr. H2O was added, extracted with 3×EtOAc. The combined organic layer was washed with 2×H2O, dried with Na2SO4, and concentrated to give an off-white solid (2.57 g, 76% yield). 1H NMR (400 MHz, CDCl3)) δ 8.01 (d, J=1.77 Hz, 1 H) 7.44 (dd, J=8.34, 2.27 Hz, 1 H) 6.50 (d, J=8.34 Hz, 1 H) 4.60 (s, 2 H) 4.38 (br. s., 2 H) 0.93 (s, 9H) 0.11 (s, 6 H); LCMS for C12H22N2OSi m/z 239.00 (M+H).

reactant | (6-aminopyridin-3-yl)methanol | 14.2 mmol, 1.76 g | NC1=CC=C(C=N1)CO | C6H8N2O
reactant | TBDMSCl | 14.5 mmol, 2.18 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 42.6 mmol, 2.90 g | N1C=NC=C1 | C3H4N2
reactant | H2O | O | H2O
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-(tert-Butyl-dimethyl-silanyloxymethyl)-pyridin-2-ylamine | 2.57 g, 76% yield | C(C)(C)(C)[SiH2]OC(C=1C=CC(=NC1)N)(C)C | C12H22N2OSi
